US07569578B2
(±)-tert-Butyl-1-([1,2,4]triazolo[4,3-a]pyridine-3-yl)-2-(7-methyl-1H-indazol-5-yl)ethylcarbamate
tert-Butyl 1-{2-(pyridin-2-yl)hydrazinyl}-3-(7-methyl-1H-indazol-5-yl)-1-oxopropan-2-ylcarbamate (70 mg, 0.17 mmol), triphenylphosphine (54 mg, 0.2 mmol), and trimethylsilyl azide (25 μL, 0.19 mmol) were combined in dry tetrahydrofuran (2.0 mL) at 0° C. Diethylazodicarbaoxylate (33 μL, 0.2 mmol) was added to the reaction mixture to afford a brown solution which was stirred at room temperature for 2 h. The solvents were removed in vacuo and the crude mixture purified by column chromatography to afford 45.2 mg (71%). Mass spec.: 393.04 (MH)+.

reactant | tert-Butyl 1-{2-(pyridin-2-yl)hydrazinyl}-3-(7-methyl-1H-indazol-5-yl)-1-oxopropan-2-ylcarbamate | 0.17 mmol, 70 mg | N1=C(C=CC=C1)NNC(C(CC=1C=C2C=NNC2=C(C1)C)NC(OC(C)(C)C)=O)=O | C21H26N6O3
reactant | triphenylphosphine | 0.2 mmol, 54 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilyl azide | 0.19 mmol, 25 μL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | (±)-tert-Butyl-1-([1,2,4]triazolo[4,3-a]pyridine-3-yl)-2-(7-methyl-1H-indazol-5-yl)ethylcarbamate | C(C)(C)(C)OC(NC(CC=1C=C2C=NNC2=C(C1)C)C1=NN=C2N1C=CC=C2)=O | C21H24N6O2
